US04987132
A solution of 1M superhydride/tetrahydrofuran (3.3 ml) in anhydrous tetrahydrofuran (5 ml) was cooled to -50° to -60° C. under an argon gas stream. Thereto was added dropwise a solution of 210 mg of methyl 3-(4-cyanophenyl)propionate synthesized from 4-cyanobenzaldehyde and methyl (triphenylphosphoranylidene)acetate by the procedure of Reference Examples 69 and 76) in 2 ml of tetrahydrofuran. The resultant mixture was stirred at that temperature for 10 minutes, then made acidic by addition of water and 1N hydrochloric acid in that order at the same temperature, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 120 mg of 3-(4-cyanophenyl)propanol.

reactant | superhydride tetrahydrofuran | 1M, 3.3 ml | [Li+].[B-](CC)(CC)CC.O1CCCC1
reactant | methyl 3-(4-cyanophenyl)propionate | 210 mg | C(#N)C1=CC=C(C=C1)CCC(=O)OC | C11H11NO2
reactant | 4-cyanobenzaldehyde | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | methyl (triphenylphosphoranylidene)acetate | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-(4-cyanophenyl)propanol | 120 mg | C(#N)C1=CC=C(C=C1)CCCO | C10H11NO
